US08044075B2
3-chloro-5-[(ethylamino)sulfonyl]-2-fluoro-N-[5-(1-methyl-1-phenylethyl)-1,3,4-thiadiazol-2-yl]benzamide
To 3-chloro-5-[(ethylamino)sulfonyl]-2-fluorobenzoic acid (60 mg, 0.213 mmol) in DMF (3 ml) and DCM (3 ml) was added EDC (40.8 mg, 0.213 mmol) and HOBt (32.6 mg, 0.213 mmol). After 10 mins, 5-(1-methyl-1-phenylethyl)-1,3,4-thiadiazol-2-amine (41.6 mg) was added. The reaction mixture was stirred at rt overnight, concentrated and purifed by HPLC to give the title compound (100 mg) LC/MS: m/z 482.8 (M+H), rt 2.05 min.

reactant | 3-chloro-5-[(ethylamino)sulfonyl]-2-fluorobenzoic acid | 0.213 mmol, 60 mg | ClC=1C(=C(C(=O)O)C=C(C1)S(=O)(=O)NCC)F | C9H9ClFNO4S
reactant | EDC | 0.213 mmol, 40.8 mg
reactant | HOBt | 0.213 mmol, 32.6 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 5-(1-methyl-1-phenylethyl)-1,3,4-thiadiazol-2-amine | 41.6 mg | CC(C)(C1=CC=CC=C1)C1=NN=C(S1)N | C11H13N3S
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 3-chloro-5-[(ethylamino)sulfonyl]-2-fluoro-N-[5-(1-methyl-1-phenylethyl)-1,3,4-thiadiazol-2-yl]benzamide | 100 mg | ClC=1C(=C(C(=O)NC=2SC(=NN2)C(C)(C2=CC=CC=C2)C)C=C(C1)S(=O)(=O)NCC)F | C20H20ClFN4O3S2
